US06515124B2
A solution of 4-(methoxycarbonyl)-3-methylbenzoic acid (Example 89; 4.83 g, 24.9 mmol) and triphenylphosphine (7.37 g, 28.1 mmol) in dichloromethane (100 mL) was cooled to ˜0° C. and N-chlorosuccinimide (3.75 g, 28.1 mmol) was added portionwise. The solution was allowed to warm to room temperature and stirred for 30 min. 3-Hydroxybenzylamine (Example 69; 4.00 g, 33.0 mmol) and diisopropylethylamine (4.00 g, 30.9 mmol) were added and the solution was allowed to stir at room temperature for 72 h. The solution was washed with 1N hydrochloric acid solution, water and brine (200 mL each), dried (MgSO4), filtered and evaporated to give a colorless solid (13.34 g) which contained 4-[[(3-hydroxybenzyl)amino]carbonyl]-2-methylbenzoic acid methyl ester and triphenylphosphine oxide. The solid was taken up in tetrahydrofuran/methanol (3:1; 200 mL) and a solution of lithium hydroxide monohydrate (4.00 g, 95.3 mmol) in water (50 mL) was added. The solution was stirred at room temperature for 4 h and then the solvent was evaporated under reduced pressure. The residual material was taken up in a mixture of 1N sodium hydroxide and diethyl ether (200 mL each) and the mixture was filtered to remove undissolved solids. The diethyl ether layer was discarded and the aqueous basic layer of the filtrate was acidified with conc. hydrochloric acid solution to ˜pH 1. The mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers were washed with brine (200 mL), dried (MgSO4), filtered and evaporated to give 4-[[(3-hydroxybenzyl)amino]carbonyl]-2-methylbenzoic acid as a colorless solid (2.40 g, 34% yield).

reactant | 4-[[(3-hydroxybenzyl)amino]carbonyl]-2-methylbenzoic acid methyl ester | COC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)C)=O | C17H17NO4
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | lithium hydroxide monohydrate | 95.3 mmol, 4.00 g | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol | 200 mL | O1CCCC1.CO
solvent | water | 50 mL | O | H2O
product | 4-[[(3-hydroxybenzyl)amino]carbonyl]-2-methylbenzoic acid | 2.40 g, 34% yield | OC=1C=C(CNC(=O)C2=CC(=C(C(=O)O)C=C2)C)C=CC1 | C16H15NO4
